* inverter characteristics

* include the model files
.include ./t14y_tsmc_025_level3.txt
  
* netlist
* m_instance_name drain_node gate_node source_node bulk_substrate_node model_name L=length W=width
m1 out in vss 0 cmosn l=180n w=1540n 
m2 out in vdd vdd cmosp l=180n w=720n


* power sources excitation etc.
* v_instance_name posive_node negetive_node value
v_dd vdd 0 3.3
v_0 vss 0 0
*v_in in 0 3.3
v_in in 0 pulse(0 3.3 0 0.1n 0.1n 50n 100n)
cl out 0 1p
.control
tran 0.1n 200n
run
setplot tran1
plot -v_dd#branch
plot in out
dc v_in 0 3.3 0.1 
run
setplot dc1
plot -v_dd#branch
plot in out
.endc
